US05482941
5-Acetyl-2-ethoxybenzoic acid
A stirred solution of methyl 5-acetyl-2-ethoxybenzoate (9.6 g, 0.043 mol) in a mixture of 1,4-dioxane (80 ml) and water (80 ml) was treated with 5N aqueous sodium hydroxide solution (44 ml, 0.217 mol). The mixture was stirred at room temperature for 18 hours then the solvents evaporated under vacuum. The residue was dissolved in water (100 ml), then this solution was acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate (4×100 ml). The organic extracts were combined, dried (Na2SO4) and evaporated under vacuum. Crystallization of the residue from ethyl acetate gave the title compound as a colorless solid (5.4 g, 60%), m.p. 122°-125° C. Found: C,63.20; H,5.81. C11H12O4 requires C,63.45; H,5.81%.

reactant | methyl 5-acetyl-2-ethoxybenzoate | 0.043 mol, 9.6 g | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OCC | C12H14O4
reactant | sodium hydroxide | 0.217 mol, 5N, 44 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
product | 5-Acetyl-2-ethoxybenzoic acid | 5.4 g, 60% | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCC | C11H12O4
